US09216980B2
Step 3: 3-(1-Methyl-1H-pyrazol-4-yl)-5-(pyrrolidin-3-yloxy)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile, hydrochloride salt
3-[6-Cyano-3-(1-methyl-1H-pyrazol-4-yl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-5-yloxy]-pyrrolidine-1-carboxylic acid tert-butyl ester (28 mg, 0.06 mmol) was treated with a mixture of acetyl chloride and methanol (2:5, 1 mL). After 1 h the mixture was concentrated in vacuo and the resultant residue was triturated with acetonitrile, the solid collected by filtration and dried in vacuo to afford the compound as a yellow solid (25 mg, 100%). 1H NMR (DMSO-D6, 400 MHz): 13.07 (s, 1H), 9.83 (s, 1H), 9.63 (s, 1H), 8.99 (d, J=2.1 Hz, 1H), 8.82 (s, 1H), 8.58 (d, J=2.1 Hz, 1H), 8.45 (s, 1H), 8.11 (d, J=0.8 Hz, 1H), 5.68-5.61 (m, 1H), 3.98-3.88 (m, 5H), 3.62-3.43 (m, 2H), 2.43-2.34 (m, 1H), 2.29-2.17 (m, 1H). LCMS (Method A): RT=4.97 min, M+H+=360.

reactant | 3-[6-Cyano-3-(1-methyl-1H-pyrazol-4-yl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-5-yloxy]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.06 mmol, 28 mg | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=C(N=CC2=C1C1=C(N2)N=CC(=C1)C=1C=NN(C1)C)C#N | C24H25N7O3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 1 mL | CO | CH4O
product | 3-(1-Methyl-1H-pyrazol-4-yl)-5-(pyrrolidin-3-yloxy)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile, hydrochloride salt | 25 mg, 100% | Cl.CN1N=CC(=C1)C1=CC2=C(NC3=C2C(=C(N=C3)C#N)OC3CNCC3)N=C1 | InChI=1S/C19H17N7O.ClH/c1-26-10-12(7-24-26)11-4-14-17-16(25-19(14)23-6-11)9-22-15(5-20)18(17)27-13-2-3-21-8-13;/h4,6-7,9-10,13,21H,2-3,8H2,1H3,(H,23,25);1H
